US07749998B2
b) 6,7-Dichloro-2(1H)-quinolinone (A) 5,6-dichloro-2(1H)-quinolinone (B)
A mixture of (2E)-N-(3,4-dichlorophenyl)-3-phenyl-2-propenamide (4.0 g, 13.7 mmol) and AlCl3 (9.1 g, 68.5 mmol) was heated slowly until the mixture became liquefied and then subsequently congealed to form a solid cake. Ice was slowly added to break up the hardened material. The mixture was vigorously stirred for 2 h. The precipitate was collected and washed with 2 N HCl solution, water, and ether to obtain a white mixture of product A and B above (2.8 g, 96%), MS (ES) m/e 215 [M+H]+.

reactant | (2E)-N-(3,4-dichlorophenyl)-3-phenyl-2-propenamide | 13.7 mmol, 4.0 g | ClC=1C=C(C=CC1Cl)NC(\C=C\C1=CC=CC=C1)=O | C15H11Cl2NO
reactant | AlCl3 | 68.5 mmol, 9.1 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | 6,7-Dichloro-2(1H)-quinolinone | ClC=1C=C2C=CC(NC2=CC1Cl)=O | C9H5Cl2NO
